US07919496B2
SYNTHESIS OF 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]OXADIAZOLE-2-CARBOXYLIC ACID ETHYL ESTER
To a solution of {[4-(2-trifluoromethylbenzoyl)piperazine-1-carbonyl]-hydrazono}acetic acid ethyl ester (1.32 g, 3.29 mmol) and sodium acetate (1.01 g, 12.31 mmol) in acetic acid (5 mL) was added a solution of bromine (0.480 g, 3 mmol) in acetic acid (2 mL) at 0° C. The mixture was stirred for 1 hour at 0° C. and another hour at room temperature and then refluxed for 30 minutes. The solvents were removed in vacuo. The residue was diluted with water, extracted with dichloromethane. The organic layer was washed with water and then concentrated to yield the crude product. The title compound was obtained as a white solid in 49% yield (0.550 g) after purification by flash column chromatography.

reactant | {[4-(2-trifluoromethylbenzoyl)piperazine-1-carbonyl]-hydrazono}acetic acid ethyl ester | 3.29 mmol, 1.32 g | C(C)OC(C=NNC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C17H19F3N4O4
reactant | sodium acetate | 12.31 mmol, 1.01 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 3 mmol, 0.480 g | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]OXADIAZOLE-2-CARBOXYLIC ACID ETHYL ESTER | 49% yield | C(C)OC(=O)C=1OC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O4
